US04938790
Preparation of 1,1-Bis(2-hydroxyphenyl)ethane.
1,1-Bis(2-hydroxyphenyl)ethanol (8.57 g) dissolved in 40 ml of dichloromethane was cooled with an ice bath and to this was added sequentially with stirring 3.70 ml of trifluoroacetic acid in 20 ml of dichloromethane and (dropwise) 7.67 ml of triethylsilane in 20 ml of dichloromethane. The mixture was allowed to warm to room temperature and react for another 2 hours. Ether and water were added and the phases separated. The organic phase was extracted with several small portions of 2N sodium hydroxide and the extracts were combined and acidified with hydrochloric acid. The resulting mixture was extracted with ether and the ether extract was dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain 6.10 g of the title compound as a brown oil.

reactant | 1,1-Bis(2-hydroxyphenyl)ethanol | 8.57 g | OC1=C(C=CC=C1)C(C)(O)C1=C(C=CC=C1)O | C14H14O3
reactant | trifluoroacetic acid | 3.70 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 7.67 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | Ether | CCOCC | C4H10O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1,1-Bis(2-hydroxyphenyl)ethane | 6.10 g | OC1=C(C=CC=C1)C(C)C1=C(C=CC=C1)O | C14H14O2
